US04340548
In the test apparatus as described in Example I, and following the procedure of Example I, 75 g (0.315 mole) of CF3CF2CCl3, 100 g 65% oleum (0.80 mole as SO3) and 5 g bromine were heated from 25° C. to 60° C. over a 5 hour period. Fractional distillation of the cold trap product, 50 g, gave 42 g (0.23 mole) of CF3CF2COCl, bp 9° C., for a 73% conversion.

reactant | CF3CF2CCl3 | 0.315 mole, 75 g | C(F)(F)(F)C(F)(F)C(Cl)(Cl)Cl | C3Cl3F5
reactant | oleum | 0.80 mole, 100 g | OS(=O)(=O)O.O=S(=O)=O
reactant | bromine | 5 g | BrBr | Br2
product | CF3CF2COCl | 0.23 mole, 42 g | C(F)(F)(F)C(F)(F)C(=O)Cl | C3ClF5O
